US06235731B1
2-Fluoro-6-formylaminopyridine (5 g) was dissolved in 50 mL of ethanol. To the solution was added 23.5 mL (4 equivalents) of 40% chloroacetaldehyde. The mixture was stirred for one hour under reflux. The reaction mixture was gradually cooled to room temperature, to which were added a 1N—HCl aqueous solution (100 mL) and ethyl acetate (100 mL). The ethyl acetate solution was subjected to extraction with a 1N—HCl aqueous solution (100 mL×2). The aqueous solutions were combined, to which was added NaHCO3 for neutralization (pH 0.35-7.30). To the neutralized aqueous solution was added ethyl acetate (100 mL×3) to extract the product. The extract solutions were combined and dried over magnesium sulfate, which was concentrated under reduced pressure to afford 5-fluoroimidazo[1,2-a]pyridine as a black liquid product (1.5 g, yield 31%).

reactant | 2-Fluoro-6-formylaminopyridine | 5 g | FC1=NC(=CC=C1)NC=O | C6H5FN2O
reactant | chloroacetaldehyde | 23.5 mL, 4 equivalents | ClCC=O | C2H3ClO
reactant | HCl | 100 mL | Cl | ClH
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-fluoroimidazo[1,2-a]pyridine | FC1=CC=CC=2N1C=CN2 | C7H5FN2
